US08071816B2
Part 1: Synthesis of CF3CH(OH)OCH(CF3)2
This reaction was carried out in essentially the same manner as described in Example 1 using charges of sulfuric acid (175 g), (CF3)2CHOH (70.6 g, 0.42 mole, Synquest Labs) and trifluoroacetaldehyde methyl hemiacetal (Alfa Aesar, 50 g, 90% purity, 0.346 mole). In this case the receiver was cooled in an ice water bath to about 0° C. to avoid solidification of the alcohol. The receiver had gained 8.6 g in weight and this solution was used without purification in the next step.

reactant | sulfuric acid | 175 g | S(O)(O)(=O)=O | H2O4S
reactant | (CF3)2CHOH | 0.42 mole, 70.6 g | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
reactant | trifluoroacetaldehyde methyl hemiacetal | 0.346 mole, 50 g | COC(C(F)(F)F)O | C3H5F3O2
product | CF3CH(OH)OCH(CF3)2 | C(F)(F)(F)C(O)OC(C(F)(F)F)C(F)(F)F | C5H3F9O2
